US04562199
A mixture of 1-[3-(3-chloro-4-ethoxycarbonylphenyl)prop-2-enyl]imidazole (0.09 g) in hydrochloric acid (3 ml, 6M) was stirred and heated under reflux for 3 h. The reaction mixture was concentrated under reduced pressure, and toluene (10 ml) was added and the reaction mixture re-concentrated. Repetition of the toluene/concentration procedure three times afforded a white solid which was recrystallised from ethyl acetate/ethanol/ether to give 1-[3-(4-carboxy-3-chlorophenyl)prop-2-enyl]imidazole hydrochloride hemihydrate as a white crystalline solid, m.p. 247°-249°.

reactant | 1-[3-(3-chloro-4-ethoxycarbonylphenyl)prop-2-enyl]imidazole | 0.09 g | ClC=1C=C(C=CC1C(=O)OCC)C=CCN1C=NC=C1 | C15H15ClN2O2
solvent | hydrochloric acid | 6M, 3 ml | Cl | ClH
product | 1-[3-(4-carboxy-3-chlorophenyl)prop-2-enyl]imidazole hydrochloride hemihydrate | O.Cl.C(=O)(O)C1=C(C=C(C=C1)C=CCN1C=NC=C1)Cl.C(=O)(O)C1=C(C=C(C=C1)C=CCN1C=NC=C1)Cl.Cl | InChI=1S/2C13H11ClN2O2.2ClH.H2O/c2*14-12-8-10(3-4-11(12)13(17)18)2-1-6-16-7-5-15-9-16;;;/h2*1-5,7-9H,6H2,(H,17,18);2*1H;1H2
